US07834041B2
N-Pentyl-N-[2′-(2-trityl-2H-tetrazol-5-yl)-biphenyl-4-ylmethyl]carbamoyl Chloride
Pentyl[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]amine (2.9 g, 5.1 mmol) was dissolved in a mixture of toluene (30 mL), water (12 mL) and NaOH (5 equiv). The mixture was cooled to −5° C., and a solution of phosgene in toluene (20% w/w, 3 equiv) was added portionwise. The mixture was stirred vigorously for 0.75 hour at −5° C. The layers were then allowed to separate, the organic layer dried over Na2SO4, and the solvent evaporated to afford the title compound (3.2 g, 5.1 mmol), which was used without further purification.

reactant | Pentyl[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]amine | 5.1 mmol, 2.9 g | C(CCCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H37N5
reactant | NaOH | 5 equiv | [OH-].[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 3 equiv | C1(=CC=CC=C1)C | C7H8
solvent | water | 12 mL | O | H2O
product | N-Pentyl-N-[2′-(2-trityl-2H-tetrazol-5-yl)-biphenyl-4-ylmethyl]carbamoyl Chloride | 5.1 mmol, 3.2 g | C(CCCC)N(C(=O)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H36ClN5O
